US04652671
5-Mercapto-1H-tetrazole-1-acetic acid (which is utilized as side chain of antibiotics)
In a 500 ml round flash equipped with agitator, relux condenser, thermometer and a dropping funnel a mixture of 100 g (0.52 mol) 5-Chloro-1H-tetrazole-1-acetic acid ethyl ester, 44 g (0,57 Mol) thiourea, 210 g water and 25 g of 38 wt.% aqueous hydrochloric acid was heated to reflux for 6 hours, while the ethanol formed during the reaction was distilled off. For working up purpose, the residue was extracted with methyl isobutyl ketone. After evaporation of the ketone 57.9 g=69% of the theory of a white crystalline solid (melting point 173° C.) of 5-Mercapto-1H-tetrazole-1-acetic acid was obtained (purity 99%).

reactant | 5-Chloro-1H-tetrazole-1-acetic acid ethyl ester | 0.52 mol, 100 g | C(C)OC(CN1N=NN=C1Cl)=O | C5H7ClN4O2
reactant | thiourea | 0,57 Mol, 44 g | NC(=S)N | CH4N2S
reactant | water | 210 g | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-Mercapto-1H-tetrazole-1-acetic acid | SC1=NN=NN1CC(=O)O | C3H4N4O2S
